US03943124
A solution of 5α-androstan-3-one 17β-carboxylic acid (2.1 g., corrected for the presence of 15% 5α-pregnan-3,20 -dione) and oxalyl chloride (4 ml.) in dry benzene (125 ml.) was refluxed for 1.5 hours before evaporation to dryness to afford crude 17β-chlorocarbonyl-5α-androstan-3-one. Morpholinoethanol (5 ml.) was added to a stirred solution of the acid chloride in dry ether (125 ml.) and pyridine (3 ml.) at room temperature. After 1 hour the mixture was diluted with ether (100 ml.) and washed with aqueous 10% sodium hydroxide and water, dried (MgSO4), filtered and evaporated to give a gum (3.275 g.). A sample (2.0 g.) gave, after purification by preparative t.l.c. (ethanol/chloroform 1:19) title compound (900 mg.) as a white froth; [α]D + 54.5°, (c. 0.9).

reactant | 5α-androstan-3-one 17β-carboxylic acid | C[C@@]12[C@H](CC[C@H]1[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O)C(=O)O | C20H30O3
reactant | 5α-pregnan-3,20 -dione | CC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)=O | C21H32O2
reactant | oxalyl chloride | 4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
product | 17β-chlorocarbonyl-5α-androstan-3-one | ClC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O | C20H29ClO2
